US04639531
58.0 g (0.5 mol) of maleic acid and 0.85 g (5 mmol) of 2 phenylaminopyridine are boiled under reflux for 48 hours in 200 ml of glacial acetic acid. The glacial acetic acid is subsequently distilled off and the residue is steam distilled. The distillate is filtered and the filtrate is dried, affording 13.2 g (42%) of dimethylmaleic anhydride with a melting point of 91°-93° C. By extracting the mother liquor with ether, a further 3.2 g (10%) of dimethylmaleic anhydride are isolated.

reactant | maleic acid | 0.5 mol, 58.0 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | phenylaminopyridine | C1(=CC=CC=C1)NC1=NC=CC=C1 | C11H10N2
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | dimethylmaleic anhydride | 13.2 g, 42% | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
